US09238639B2
D) Methyl(6-hydroxy-4,7-dimethyl-1-benzothiophen-3-yl)acetate
MsOH (1.0 mL) was added to methyl 4-((3-hydroxy-2,5-dimethylphenyl)sulfanyl)-3-oxobutanoate (175.1 mg) at 0°. The mixture was stirred at 0° C. for 15 min, and then poured into ice water. The mixture was extracted with EtOAc. The organic layer was separated, washed successively with saturated aqueous NaHCO3 and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (130.3 mg).

reactant | MsOH | 1.0 mL | S(=O)(=O)(C)O | CH4O3S
reactant | methyl 4-((3-hydroxy-2,5-dimethylphenyl)sulfanyl)-3-oxobutanoate | 175.1 mg | OC=1C(=C(C=C(C1)C)SCC(CC(=O)OC)=O)C | C13H16O4S
product | Methyl(6-hydroxy-4,7-dimethyl-1-benzothiophen-3-yl)acetate | 130.3 mg | COC(CC1=CSC2=C1C(=CC(=C2C)O)C)=O | C13H14O3S
